US05190946
N-[2-(2-Phenyl-2-ethylacetoxy)ethyl]-N'-(3,4,5-trimethoxybenzoyl)piperazine hydrochloride
To a solution of 16.2 g (0.05 mole) of N-[2-(2-phenyl-2-ethylacetoxy)ethyl]-N'-(3,4,5-trimethoxybenzoyl)piperazine and 4.75 g (0.06 mole) of pyridine in 50 ml of anhydrous chloroform 10.0 g (0.055 mole) of 2-phenyl-2-ethylacetyl chloride were added dropwise. The reaction mixture, treated as described in Example 1 yield the title product. M.p. 207° C. (ethanol).

reactant | N-[2-(2-phenyl-2-ethylacetoxy)ethyl]-N'-(3,4,5-trimethoxybenzoyl)piperazine | 0.05 mole, 16.2 g | C1(=CC=CC=C1)C(C(=O)OCCN1CCN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CC | C26H34N2O6
reactant | pyridine | 0.06 mole, 4.75 g | N1=CC=CC=C1 | C5H5N
reactant | chloroform | 0.055 mole, 50 ml, 10.0 g | C(Cl)(Cl)Cl | CHCl3
reactant | 2-phenyl-2-ethylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)CC | C10H11ClO
product | N-[2-(2-Phenyl-2-ethylacetoxy)ethyl]-N'-(3,4,5-trimethoxybenzoyl)piperazine hydrochloride | Cl.C1(=CC=CC=C1)C(C(=O)OCCN1CCN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CC | InChI=1S/C26H34N2O6.ClH/c1-5-21(19-9-7-6-8-10-19)26(30)34-16-15-27-11-13-28(14-12-27)25(29)20-17-22(31-2)24(33-4)23(18-20)32-3;/h6-10,17-18,21H,5,11-16H2,1-4H3;1H
